US06936602B1
In THF (12.0 ml) was dissolved methyl 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1-benzazepine-4-carboxylate (0.60 g). To the solution were added pyridine (0.37 ml) and 4-dimethylaminopyridine (56 mg), followed by addition of crotonic anhydride (0.58 ml). The mixture was stirred at 50° C. for 24 hours, and cooled to room temperature. The reaction solution was added to water and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried with magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane:ethyl acetate=3/1) to give methyl 7-[4-(2-butoxyethoxy)phenyl]-1-[(E)-2-butenoyl]-2,3-dihydro-1-benzazepine-4-carboxylate (0.53 g).

reactant | methyl 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1-benzazepine-4-carboxylate | 0.60 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C24H29NO4
reactant | pyridine | 0.37 ml | N1=CC=CC=C1 | C5H5N
reactant | crotonic anhydride | 0.58 ml | C(\C=C\C)(=O)OC(\C=C\C)=O | C8H10O3
reactant | water | O | H2O
solvent | THF | 12.0 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 56 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 7-[4-(2-butoxyethoxy)phenyl]-1-[(E)-2-butenoyl]-2,3-dihydro-1-benzazepine-4-carboxylate | 0.53 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C(\C=C\C)=O)C(=O)OC)C1 | C28H33NO5
